US08426584B2
tert-Butyl 2-(but-3-en-2-yloxy)acetate:
A reactor was charged with tetrabutylammonium hydrogen sulfate (0.17 Wt, 0.10 eq) and toluene (2.6 Wt, 3.0 V). The mixture was stirred and cooled to 0-5° C. While maintaining the internal temperature below 10° C., 50 wt % aqueous sodium hydroxide (4.5 wt, 3.0 V, 10.5 eq; 50% wt sodium hydroxide made from 2.25 wt of sodium hydroxide and 2.25 wt of water) was added, followed by 3-buten-2-ol (0.45 Wt, 0.53 V, 1.20 eq). The mixture was stirred at 0-10° C. for 15 minutes. tert-Butyl bromoacetate (1.0 Wt, 1.00 eq) was added while maintaining the internal temperature between 0-10° C. After the addition, the mixture was stirred between 0-5° C. for 1 h and monitored for complete consumption of tert-butyl bromoacetate (target >98% conversion). The reactor was charged with water (3.0 Wt, 3.0 V) and MTBE (4.4 Wt, 6.00 V) and warmed to 20-25° C. The biphasic mixture was stirred vigorously for 15 minutes, and then allowed to partition. The organic layer was washed with water (1.5 Wt, 1.5 V). The organic layer was concentrated under reduced pressure (T<40° C. and not less than 15 torr or 20 mbar). Heptane (1.0 wts, 1.5 V) and MTBE (1.1 wts, 1.5 V) were added. The solution was filtered to remove particulates, and rinsed with additional heptane:MTBE as necessary to clear the product. The solution was returned to the reactor and concentrated under reduced pressure to give 6 (0.91 Wt, 95.0%) as an oil with less than 1 volume of solvent.

reactant | sodium hydroxide | 10.5 eq | [OH-].[Na+]
reactant | 3-buten-2-ol | 1.20 eq | CC(C=C)O | C4H8O
reactant | tert-Butyl bromoacetate | 1.00 eq | BrCC(=O)OC(C)(C)C | C6H11BrO2
catalyst | tetrabutylammonium hydrogen sulfate | 0.10 eq | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 2-(but-3-en-2-yloxy)acetate | CC(C=C)OCC(=O)OC(C)(C)C | C10H18O3
